US06503900B2
6-Methylisatoic anhydride (10.0 g, 56 mmol) ethyl glycinate hydrochloride (9.77g, 1.25 equiv.) and anhydrous pyridine (200 mL) were combined and heated under reflux 3.5 h in a nitrogen atmosphere. The pyridine was removed by evaporation under reduced pressure to give an oil. The oil was dissolved in acetic acid (15 mL) and heated under reflux for 6 h. The volatiles were removed under reduced pressure to give a residue which was triturated methanol and filtered to recover 3.63 g of 6-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione as a yellow solid. The methanol filtrate was evaporated and acetic acid (200 mL) was added to the residue. The brown solution was heated under reflux overnight. The reaction mixture was cooled and the volume of acetic acid was reduced to half its volume under reduced pressure. Upon cooling, a solid precipitated which was collected. A second crop of 6-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione (4.7 g) was obtained as a beige solid.

reactant | 6-Methylisatoic anhydride | 56 mmol, 10.0 g, 1.25 equiv. | CC=1C=CC=C2C1C(=O)OC(N2)=O | C9H7NO3
reactant | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 6-methyl-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 4.7 g | CC1=CC=CC2=C1C(NCC(N2)=O)=O | C10H10N2O2
